US07893060B2
8-(5-Chloro-7-morpholin-4-yl-thiazolo[5,4-d]pyrimidin-2-ylmethyl)-2,8-diaza-spiro[4.5]decane-2-carboxylic acid tert-butyl ester
Prepared according to the method used in the preparation of 5-(5-chloro-7-morpholin-4-yl-thiazolo[5,4-d]pyrimidin-2-ylmethyl)-hexahydro-pyrrolo[3,4-c]pyrrole-2-carboxylic acid tert-butyl ester using 2,8-diaza-spiro[4.5]decane-2-carboxylic acid tert-butyl ester in place of hexahydro-pyrrolo[3,4-c]pyrrole-2-carboxylic acid tert-butyl ester. The title compound was obtained as a white solid (81 mg, 80%).

reactant | 5-(5-chloro-7-morpholin-4-yl-thiazolo[5,4-d]pyrimidin-2-ylmethyl)-hexahydro-pyrrolo[3,4-c]pyrrole-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC2CN(CC2C1)CC=1SC=2N=C(N=C(C2N1)N1CCOCC1)Cl | C21H29ClN6O3S
reactant | 2,8-diaza-spiro[4.5]decane-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC2(CC1)CCNCC2 | C13H24N2O2
product | 8-(5-Chloro-7-morpholin-4-yl-thiazolo[5,4-d]pyrimidin-2-ylmethyl)-2,8-diaza-spiro[4.5]decane-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC2(CC1)CCN(CC2)CC=2SC=1N=C(N=C(C1N2)N2CCOCC2)Cl | C23H33ClN6O3S
